US04540692
In a nitrogen atmosphere, a solution of methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide (0.54 g) and 5-amino-2-hydroxy-2,4,6 -cycloheptatrien-1-one (0.33 g) in xylene (15 ml) is refluxed for 7.5 hours. The reaction mixture is then allowed to stand at room temperature overnight. The crystals that have separated out are collected by filtration and recrystallized from dimethylformamidemethanol to give 4-hydroxy-2-methyl-N-(2-hydroxy-1-oxo-2,4,6-cycloheptatrien-5-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide (0.4 g), m.p. 258°-265° C.

reactant | methyl 4-hydroxy-2-methyl-2H-1,2-benzothiazine-3-carboxylate 1,1-dioxide | 0.54 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)OC | C11H11NO5S
reactant | 5-amino-2-hydroxy-2,4,6 -cycloheptatrien-1-one | 0.33 g | NC1=CC=C(C(C=C1)=O)O | C7H7NO2
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-2-methyl-N-(2-hydroxy-1-oxo-2,4,6-cycloheptatrien-5-yl)-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 0.4 g | OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=CC=C(C(C=C2)=O)O | C17H14N2O6S
